US09193669B2
Palladium (II) acetate (0.449 g, 0.002 mol) was added to a mixture of N-allyl-2,2,2-trifluoroacetamide (4.2 g, 0.02 mol), 1-bromo-3-nitrobenzene (5.09 g, 0.03 mol) and TBAA. The reaction mixture was flushed with argon and heated under argon at 90° C. for 4 h. The reaction mixture was partitioned between EtOAc and water. Organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to give dark brown viscous liquid. Purification by flash chromatography (5% to 30% EtOAc—hexane gradient) gave 2,2,2-trifluoro-N-(3-(3-nitrophenyl)allyl)acetamide as light yellow solid. Yield (3.5 g, 61%); 1H NMR (400 MHz, DMSO-d6) δ 9.77 (br.s, 1H), 8.27 (s, 1H), 8.10 (d, J=8.0 Hz, 1H), 7.93 (d, J=7.6 Hz, 1H), 7.63 (t, J=8.0 Hz, 1H), 6.71 (d, J=16.0 Hz, 1H), 6.51 (dt, J=5.6, 16.0 Hz, 1H), 4.02 (t, J=5.6 Hz, 2H).

reactant | N-allyl-2,2,2-trifluoroacetamide | 0.02 mol, 4.2 g | C(C=C)NC(C(F)(F)F)=O | C5H6F3NO
reactant | 1-bromo-3-nitrobenzene | 0.03 mol, 5.09 g | BrC1=CC(=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | TBAA | CC(=O)CC(=O)OC(C)(C)C | C8H14O3
catalyst | Palladium (II) acetate | 0.002 mol, 0.449 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,2,2-trifluoro-N-(3-(3-nitrophenyl)allyl)acetamide | FC(C(=O)NCC=CC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C11H9F3N2O3
